US07163936B2
To a solution of allyl 5-(chloroacetyl)-2-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate (0.50 g, 1.94 mmol) in methanol (10 ml) were added at 0–5° C. thioisonicotinamide (5 mg) and ammonium dithiocarbamate (0.32 g, 2.9 mmol). The reaction mixture was raised to room temperature, stirred for 10 minutes and then stirred at 60–70° C. for 50 minutes. The solvent was removed in vacuo. To the residue was added an aqueous 1N NaOH solution to made alkaline. To the solution were added ethyl acetate and hexane and the solution was separated with a separating funnel. After 6N hydrochloric acid was added to the aqueous layer and ethyl acetate was added thereto, the mixture was again separated with a separating funnel. The aqueous layer was extracted with ethyl acetate. The organic layer was washed twice with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and the solvent was removed in vacuo to give allyl 2-methyl-5-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate (368 mg, 64%).

reactant | allyl 5-(chloroacetyl)-2-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate | 1.94 mmol, 0.50 g | ClCC(=O)C1=CCC(N(C1)C(=O)OCC=C)C | C12H16ClNO3
reactant | ammonium dithiocarbamate | 2.9 mmol, 0.32 g | C(N)([S-])=S.[NH4+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | thioisonicotinamide | 5 mg | C(C1=CC=NC=C1)(=S)N | C6H6N2S
product | allyl 2-methyl-5-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate | 368 mg, 64% | CC1N(CC(=CC1)C=1N=C(SC1)S)C(=O)OCC=C | C13H16N2O2S2
